US07323475B2
g) (S)-2-{[7-(3-Fluoro-5-methoxy-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid
Prepared in analogy to Example A-50 by reacting 7-(3-fluoro-5-methoxy-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (compound of example A-73 a) with L-alanine in a pressure tube for 3 days at 90 C. MS-(−)-ion M−1=399.1.

reactant | 7-(3-fluoro-5-methoxy-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=CC2=CC(=CC=C2C1O)OC1=CC(=CC(=C1)OC)F | C21H20FNO5
reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | (S)-2-{[7-(3-Fluoro-5-methoxy-phenoxy)-4-hydroxy-isoquinoline-3-carbonyl]-amino}-propionic acid | FC=1C=C(OC2=CC=C3C(=C(N=CC3=C2)C(=O)N[C@H](C(=O)O)C)O)C=C(C1)OC | C20H17FN2O6
